* RC Low Pass Filter (CORRECT)

.param Rval=1k
.param Cval=0.1u

* Proper source (IMPORTANT)
V1 in 0 AC 1 SIN(0 5 1k)

R1 in out {Rval}
C1 out 0 {Cval}

.control

* -------- TRANSIENT --------
tran 10u 10m
plot v(in) v(out)

* -------- AC ANALYSIS (CORRECT) --------
ac dec 100 10 100k

* Plot gain in dB (VERY IMPORTANT)
plot db(v(out))

* -------- PARAMETER VARIATION --------

* Case 1
alter Rval=1k
alter Cval=0.1u
ac dec 100 10 100k
plot db(v(out))

* Case 2
alter Rval=5k
alter Cval=0.047u
ac dec 100 10 100k
plot db(v(out))

* Case 3
alter Rval=10k
alter Cval=0.01u
ac dec 100 10 100k
plot db(v(out))

.endc

.end